Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have this problem with myself, there's no specific thing, I 
want to know what is my problem with my thinking"
- Worsening depression with suicidal ideation

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old ___ student at 
___ from ___, with no significant past 
psychiatric or medical history presenting with worsening 
depression, anxiety, and SI. 

This semester, the patient says he has been having difficulty 
focusing and has been unable to complete his work. He starts to 
make a plan and then is unable to follow-through or execute it 
(even though he knows how) which is very distressing to him. As 
a result, he is currently failing his classes and was told by a 
professor today that he is not taking his work seriously, 
currently scoring 40% in the class (previous semesters has 
gotten As/Bs). Patient also notes a change in his ability to 
employ his usual coping skills. Previously whenever he was mad 
or sad he would "take action" to "get rid of his negative 
energy" by going somewhere/doing something. Instead he has been 
focusing this
negative energy inward and keeps it to himself. He used to use 
sleep as a coping strategy as well (i.e. things will be better 
in the morning) but he reports this is no longer effective. 
Reports anhedonia: used to love food, his classes, active in 
extracurricular activities but now has no interest in them. Has 
had these symptoms for a long time, but feels they have acutely 
worsened this past semester. 

Overall, patient feels that he is "not doing well in his life." 
States that "he gets bored of this life," describes not being 
interested in life anymore, and merely does things to get by. 
Has had passive thoughts of SI (i.e. what if he were to go to 
sleep and never wake up), but at times has held a knife from one 
of his architectural classes in his hands, has looked at & 
outside a window with contemplation of jumping. Patient says 
that he doesn't have the energy to go through with it. Denies 
prior SA. 

Identifies psychosocial stressors to be his relationship with 
his partner overseas and his education. 

Has not been able to talk about his experience with anyone in 
detail (says that his sister/parents may have a general idea of 
what he is going through but do not know specifics). Went to 
___ twice but has never had an outpatient 
psychiatrist or therapist. 

On further ROS: patient describes erratic sleep patterns 
(sometimes hypersomnia ("I try to take a 20min nap and wake up 
6hrs later") vs. insomnia (staying awake ___, describes 
sleeping intermittently throughout the day. Decreased appetite 
(1 meal/day, not motivated to eat). Reports low energy and
hopelessness. 

When asked about prior symptoms of mania such as 
distractibility, erratic behavior, grandiosity, flight of ideas, 
increased activity, decreased need for sleep, or 
talkativeness/pressured speech, patient says that he might have 
but it is not clear that he completely understood concept. 
 
The patient denies psychotic symptoms such as auditory or visual 
hallucinations, paranoia, or delusions. 
 
Patient endorses symptoms of anxiety, reporting weekly panic 
attacks (last one reportedly on ___. 

 
Past Medical History:
Denies
 
Social History:
SUBSTANCE ABUSE HISTORY:
-Tobacco: close to 1ppd
-ETOH: denies  
-Illicit drugs: denies; +MJ occasionally ("1 puff in 2 months")
 
FORENSIC HISTORY:
Arrests: denies
 Convictions and jail terms: denies
 Current status (pending charges, probation, parole): N/A

SOCIAL HISTORY:
___
Family History:
Denies family history of psychiatric problems
 
Physical Exam:
ADMISSION PHYSICAL ADMISSION:
General: young male appears stated age in NAD. Well-nourished, 
well-developed. Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx 
clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. 
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally. (patient 
reports
hearing in L ear < R ear, has been evaluated by ___ MD)
 IX, X: Not assessed
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. Sensation: Intact to light touch
throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Not tested

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): unable to 
perform MOYB, asked to do serial 7's (count back from 100 by 7): 
93, 85, 78, 71, 64, 54 
  Memory: Not tested
  Fund of knowledge: consistent with education
  Calculations: $2.25- 5...11...10
  Abstraction: train/bicycle= transportation
  Speech: normal rate, volume, and tone, improvement in latency 
from yesterday's interview
  Language: non-native ___ speaker, remains unclear if 
difficulty with interview is secondary to language barrier 
(would encourage getting a phone interpreter to assess)

Mental Status:
 Appearance: No apparent distress, appears stated age, well 
groomed, appropriately dressed, large classes
 Behavior: Calm, cooperative, engaged, at times intense eye 
contact, occasionally distracted, at times inappropriately 
laughing 
 Mood and Affect: "fine" euthymic, full range, incongruent with 
reported neurovegetative symptoms
 Thought Process: largely linear though at times difficult to 
follow (occasionally will not appropriately answer question), 
perseverative about difficulty planning and his desire to 
leaving inpatient unit; goal-oriented and future-oriented 
Thought
Content: SI "Not really...nothing in mind" HI (no) /AH/VH, no
evidence of delusions or paranoia (feels scdared ___, sometimes
when someone accidentally touches him, everything in body is) 
 Judgment and Insight: limited/poor

DISCHARGE EXAM

Objective:
  Neurological: 
    *station and gait: normal station and gait with normal arm 
swing
    *tone and strength: moves all extremities freely 
anti-gravity
    cranial nerves: grossly intact
    abnormal movements: none observed
  *Appearance: Young bearded man, wearing glasses with large 
frames, dressed in casual clothing
  Behavior: cooperative with interview, reasonable eye contact, 
calm
  *Mood and Affect: "fine" / euthymic and largely congruent, 
occasionally inappropriately smiles
  *Thought process: primarily linear and goal-directed, 
occasioanlly circumstantial, no FOI or LOA
  *Thought Content : denies current SI, no delusions elicited
  *Judgment and Insight: fair/fair
  Cognition:
    *Attention, *orientation, and executive function: attends to 
interview, somewhat distractible
    *Memory: intact to recent events    
*Fund of knowledge: not tested, grossly average
    *Speech: occasionally mumbles or has trouble finding words, 
otherwise normal rate, rhythm, volume and variation in tone
    *Language: Accented ___ with occasionally odd word 
choice or verb conjugation errors

 
Pertinent Results:
___ 06:47PM   GLUCOSE-89 UREA N-13 CREAT-0.9 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-27 ANION GAP-15
___ 06:47PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:47PM   WBC-6.7 RBC-5.21 HGB-15.0 HCT-46.8 MCV-90 
MCH-28.8 MCHC-32.1 RDW-13.3 RDWSD-44.1
___ 06:47PM   NEUTS-42.4 ___ MONOS-6.1 EOS-3.9 
BASOS-0.4 IM ___ AbsNeut-2.84 AbsLymp-3.15 AbsMono-0.41 
AbsEos-0.26 AbsBaso-0.03
___ 06:47PM   PLT COUNT-249
___ 05:38PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:38PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:38PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient was offered a conditional voluntary 
agreement (Section 10 & 11), but declined to sign in 
voluntarily. He was admitted on a Sec 12b, and remained on that 
level throughout his admission.  He also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Patient reported significant neurovegitative symptoms of 
depression, as well as impairment associated with lack of focus 
and motivation. He reported past suicidal ideation, but was not 
reporting any active suicidal ideation during his hospital 
course. He was started on bupropion XR 150mg QD, with no adverse 
effects noted at the time of discharge.

3. SUBSTANCE USE DISORDERS:
#) Nicotine/Tobacco Use
Patient was initially started on nicotine replacement gum, but 
reported that he did not like the taste, and so was transitioned 
to nicotine patches. He was started on bupropion as above. He 
was discharged with prescriptions for nicotine patches, and 
stated that he hoped he would be able to quit smoking. 

4. MEDICAL
#) There were no medical issues addressed during this admission

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient intermittently attended these groups that focused on 
teaching patients various coping skills. He was pleasant on 
approach in the milieu and interacted with other patients. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Patient's sister, who he lives with, was contacted and provided 
collateral that largely agreed with the patient's self-report. 
She was present for a meeting prior to discharge, and expressed 
understanding and agreement with the outpatient treatment plan.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting bupropion XL, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
depression and suicidal ideation.  Their static factors noted at 
that time include male gender and single marital status.    
Modifiable risk factors including no established outpatient 
treatment, poor coping skills, and psychosocial stressors 
including recent poor academic performance were addressed during 
this hospitalization with coping skills education, coordination 
with the school, and establishment of outpatient care. The 
patient was no longer expressing any suicidal ideation at the 
time of discharge. Finally, the patient is being discharged with 
many protective risk factors, including help-seeking nature, 
future oriented viewpoint, no history of abuse, and stronger 
social supports now that he has discussed his recent challenges 
more fully with his sister. Overall, based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is fairly good but dependent on 
his continued engagement with outpatient psychiatry and 
psychotherapy.

 
Medications on Admission:
None
Patient reports taking "Optimind" and other supplement that he 
cannot remember the name of at this time.
 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 150 mg PO DAILY 
RX *bupropion HCl [Wellbutrin XL] 150 mg 1 tablet(s) by mouth 
Every morning Disp #*15 Tablet Refills:*0 
2.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour use one patch daily Disp #*15 Patch 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depressive Episode

 
Discharge Condition:
Mental Status - Alert, oriented, and interactive. Clear and 
coherent
Ambulatory Status - Ambulatory, independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___